US04028356
In the manner given in Example 1, 7-chloro-2-hydrazino-5-(o-fluorophenyl)-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1,3-dibromopropanone under nitrogen to give 7-chloro-2-[[2-bromo-1-(bromomethyl)ethylidene]hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)F)C1 | C15H12ClFN4
reactant | 1,3-dibromopropanone | BrCC(CBr)=O | C3H4Br2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-[[2-bromo-1-(bromomethyl)ethylidene]hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CBr)CBr)C2=C(C=CC=C2)F)C1 | C18H14Br2ClFN4
